US08748624B2
STEP C: Ethyl 3-(5-(2-(([1,1′-biphenyl]-4-ylamino)methyl)phenyl)picolinamido)propanoate
Solid NaBH(OAc)3 (214 mg, 1.0 mmol) was added to a THF solution of ethyl 3-(5-(2-formylphenyl)picolinamido)propanoate (220 mg, 0.7 mmol), [1,1′-biphenyl]-4-amine (171 mg, 1.0 mmol), and AcOH (0.04 mL, 0.7 mmol) and the resulting mixture was warmed to 40° C. After 18 h the resulting mixture diluted with EtOAc washed with water and brine, dried (Na2SO4), dry-packed onto silica gel and purified via column chromatography to yield the title compound.

reactant | NaBH(OAc)3 | 1.0 mmol, 214 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | ethyl 3-(5-(2-formylphenyl)picolinamido)propanoate | 0.7 mmol, 220 mg | C(=O)C1=C(C=CC=C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C18H18N2O4
reactant | [1,1′-biphenyl]-4-amine | 1.0 mmol, 171 mg | C1(=CC=C(C=C1)N)C1=CC=CC=C1 | C12H11N
reactant | AcOH | 0.7 mmol, 0.04 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl 3-(5-(2-(([1,1′-biphenyl]-4-ylamino)methyl)phenyl)picolinamido)propanoate | C1(=CC=C(C=C1)NCC1=C(C=CC=C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C1=CC=CC=C1 | C30H29N3O3
